US09388199B2
To a solution of (2S,3S,4S)-4-fluoro-3-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester and (2R,3R,4R)-3-fluoro-4-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (300 mg, 1.14 mmol), 3,3-dimethylbutylamine (115 mg, 1.14 mmol) and HBTU (648 mg, 1.71 mmol) in CH2Cl2 (7 mL) was added DIPEA (0.60 mL, 3.42 mmol). The reaction mixture was stirred at RT under nitrogen atmosphere overnight and concentrated. The crude residue was taken-up in EtOAc, washed with 0.1 N HCl (×2), dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 6:4 in 40 min) to give (2S,3S,4S)-2-(3,3-dimethyl-butylcarbamoyl)-4-fluoro-3-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester: Rf, TLC (EtOAc)=0.5; 1H NMR (400 MHz, DMSO-d6) δ (ppm): 7.92 (m, 1H), 5.16 (dq, 1H), 4.29-4.37 (m, 1H), 4.15 (m, 1H), 3.72 (m, 1H), 3.39 (m, 1H), 3.35 (s, 3H), 3.08 (m, 2H), 1.32-1.40 (m, 11H), 0.90 (s, 9H) and (2R,3R,4R)-2-(3,3-dimethyl-butylcarbamoyl)-3-fluoro-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester: Rf, TLC (EtOAc)=0.6; 1H NMR (400 MHz, DMSO-d6) δ (ppm): 7.90 (m, 1H), 5.05 (m, 1H), 4.20 (t, 1H), 4.02 (m, 1H), 3.70 (m, 1H), 3.39 (m, 1H), 3.33 (overlap with DMSO, m, 1H); 3.27 (s, 3H), 3.06 (m, 2H), 1.36-1.43 (m, 11H), 0.89 (s, 9H)

reactant | (2S,3S,4S)-4-fluoro-3-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)OC)C(=O)O | C11H18FNO5
reactant | (2R,3R,4R)-3-fluoro-4-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 1.14 mmol, 300 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]([C@@H](C1)OC)F)C(=O)O | C11H18FNO5
reactant | 3,3-dimethylbutylamine | 1.14 mmol, 115 mg | CC(CCN)(C)C | C6H15N
reactant | HBTU | 1.71 mmol, 648 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.42 mmol, 0.60 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | (2S,3S,4S)-2-(3,3-dimethyl-butylcarbamoyl)-4-fluoro-3-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)OC)C(NCCC(C)(C)C)=O | C17H31FN2O4
